US06653347B2
N-(4-cyano-2-methoxyphenyl)-sulfamoyl chloride
To a soultion of N-(4-cyano-2-methoxyphenyl)-sulfamic acid sodium salt (1 mmol) at 0° C. in POCl3 (1 mL) is added phosphorous pentachloride (1.2 mmol). Upon reaction completion, the reaction mixture is concentrated and the crude material will be carried onto the next step without further purification.

reactant | N-(4-cyano-2-methoxyphenyl)-sulfamic acid sodium salt | 1 mmol | [Na+].C(#N)C1=CC(=C(C=C1)NS([O-])(=O)=O)OC
reactant | phosphorous pentachloride | 1.2 mmol | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 1 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | N-(4-cyano-2-methoxyphenyl)-sulfamoyl chloride | C(#N)C1=CC(=C(C=C1)NS(=O)(=O)Cl)OC | C8H7ClN2O3S
